US08217028B2
Sodium hydroxide (30 mg) was added to a solution of ethyl 3-[7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-4-fluoro-1H-indol-3-yl]propanoate (D47) (195 mg) in THF (3 mL) and water (3 mL). The reaction mixture was stirred at 90° C. for 1 hour. Then 0.5 M HCl was added until pH was about 6. The solvent was concentrated, and the residue was dissolved in water. The precipitated solid was purified by Mass Directed Auto Prep to afford 3-[7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-4-fluoro-1H-indol-3-yl]propanoic acid (E21) (78 mg) as a white solid. δH (DMSO-d6, 400 MHz): 1.38 (6H, d), 2.62 (2H, t), 3.06 (2H, t), 4.99 (1H, m), 6.98 (1H, dd), 7.26 (1H, d), 7.55 (1H, d), 7.90 (1H, dd), 8.47 (1H, dd), 8.70 (1H, d), 11.12 (1H, s), 12.15 (1H, br s). δF (DMSO-d6, 376 MHz): −118.0. MS (ES): C23H19FN4O4 requires 434; found 435.1 (M+H+).

reactant | Sodium hydroxide | 30 mg | [OH-].[Na+]
reactant | ethyl 3-[7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-4-fluoro-1H-indol-3-yl]propanoate | 195 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC(=C2C(=CNC12)CCC(=O)OCC)F | C25H23FN4O4
reactant | HCl | 0.5 M | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | 3-[7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-4-fluoro-1H-indol-3-yl]propanoic acid | 78 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC(=C2C(=CNC12)CCC(=O)O)F | C23H19FN4O4
